US04623381
10 parts by weight of 2-butyryl-5-[2-(3,5-dimethylpyrazol-1-yl)-ethyl]-cyclohexane-1,3-dione and 2.5 parts by weight of allyloxyamine in 100 parts by volume of ethanol were stirred for 12 hours at room temperature. The mixture was worked up by a method similar to that described in Example 1. 8.8 parts by weight of 2-(1-allyloxyaminobutylidene)-5-[2-(3,5-dimethylpyrazol-1-yl)-ethyl]-cyclohexane-1,3-dione of nD28 =1.5329 were obtained (Compound No. 2).

reactant | 2-butyryl-5-[2-(3,5-dimethylpyrazol-1-yl)-ethyl]-cyclohexane-1,3-dione | C(CCC)(=O)C1C(CC(CC1=O)CCN1N=C(C=C1C)C)=O | C17H24N2O3
reactant | allyloxyamine | C(C=C)ON | C3H7NO
solvent | ethanol | C(C)O | C2H6O
product | 2-(1-allyloxyaminobutylidene)-5-[2-(3,5-dimethylpyrazol-1-yl)-ethyl]-cyclohexane-1,3-dione | C(C=C)ONC(CCC)=C1C(CC(CC1=O)CCN1N=C(C=C1C)C)=O | C20H29N3O3
